US05811389
15.83 g of 1-benzotriazol-1-yl-N,N,N',N'-tetramethyluronium hexafluorophosphate and 9 ml of N-methylmorpholine were added to a solution of 13.65 g of Z-Asp(OBut)-OH.H2O and 15.9 g of Val-OBzl.TosOH in 250 ml of DMF. After stirring for 2 hours the reaction mixture was evaporated in a vacuum and the residue was partitioned between ethyl acetate and water. The organic phase was washed with 5% KHSO4 10% K2SO4 solution, water, saturated NaHCO3 solution, water and saturated NaCl solution, dried over Na2SO4, filtered and evaporated. The residue was crystallized from diethyl ether/hexane and there were obtained 17.5 g of Z-Asp(OBut)-Val-OBzl of m.p. 99°; [α]D20 -27.7° (c=1, MeOH).

reactant | N-methylmorpholine | 9 ml | CN1CCOCC1 | C5H11NO
reactant | Z-Asp(OBut)-OH.H2O | 13.65 g | N([C@@H](CC(OC(C)(C)C)=O)C(=O)O)C(=O)OCC1=CC=CC=C1.O
reactant | Val-OBzl | 15.9 g | N[C@@H](C(C)C)C(=O)OCC1=CC=CC=C1 | C12H17NO2
reactant | TosOH | S(=O)(=O)(C1=CC=C(C)C=C1)O | C7H8O3S
solvent | DMF | 250 ml | CN(C)C=O | C3H7NO
product | Z-Asp(OBut)-Val-OBzl | 17.5 g | N([C@@H](CC(OC(C)(C)C)=O)C(=O)N[C@@H](C(C)C)C(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C28H36N2O7
